US05145860
A mixture of 4,5-bis(4methoxyphenyl)-2-ethoxycarbonylacetylaminomethylthiazole (0.43 g) and 4N sodium hydroxide (3 ml), methanol (5 ml) and water (5 ml) was stirred at ambient temperature for 4.5 hours. After allowing to cool to room temperature, the mixture was poured to water, and the aqueous layer was adjusted to pH 1 with 10% hydrochloric acid, and extracted with diethyl ether. The organic layer was washed with water and brine, and dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo. The resulting residue was triturated with isopropyl ether and diethyl ether, to give 4,5-bis(4-methoxyphenyl)-2-(carboxyacetylaminomethyl)thiazole (0.23 g).

reactant | 4,5-bis(4methoxyphenyl)-2-ethoxycarbonylacetylaminomethylthiazole | 0.43 g | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CNC(CC(=O)OCC)=O | C23H24N2O5S
reactant | sodium hydroxide | 4N, 3 ml | [OH-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 4,5-bis(4-methoxyphenyl)-2-(carboxyacetylaminomethyl)thiazole | 0.23 g | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CNC(CC(=O)O)=O | C21H20N2O5S
